US20010025041A1
a) N-(3-nitrophenyl)benzenesulfonamide
To 6.17 g (44.7 mmol) of 3-nitroaniline and 8.41 InL (48.2 mmol) ofN,N-diisopropylethylamine in 150 mL of anhydrous diethyl ether was added 5.14 mL (40.2 mmol) of benzenesulfonyl chloride. The mixture was heated to reflux under nitrogen with stirring for 16 h, cooled and the resulting two-phase mixture scratched to crystallize the insoluble oil. After decanting the ether layer, the derived solid was dissolved in 300 mL of dichloromethane and the solution washed with 2 N HCl (3×200 mL), saturated NaHCO3 (200 mL), brine (200 mL), dried (Na2SO4) and concentrated to give 9.62 g (86%) of the title compound as a light tan solid. 1H-NMR (300 MHz, CDCl3) δ7.96 (m, 2 H), 7.86 (m, 2 H), 7.41-7.63 (m, 5 1), and 7.30 (br s, 1 H). Mass spectrum (LDI-TOF, gentisic acid matrix) calcd. for Cl12H10N2O4S: 301.0(M+Na). Found: 301.1.

reactant | 3-nitroaniline | 44.7 mmol, 6.17 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | benzenesulfonyl chloride | 40.2 mmol, 5.14 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | N-(3-nitrophenyl)benzenesulfonamide | 9.62 g, 86% | [N+](=O)([O-])C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C12H10N2O4S
